US08530504B2
Ethyl 7-formyl-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate
To a mixture of ethyl(5-chloro-4-formyl-3-methyl-1H-pyrazol-1-yl)acetate (560 mg, 2.43 mmol), potassium hydroxide (495 mg, 7.5 mmol) and DMSO (9.72 mL) was added carbon disulfide (194 μL, 3.21 mmol), and the mixture was stirred at room temperature for 18 hours. To the reaction mixture, methyl iodide (182 μL, 2.92 mmol) was added, and the mixture was further stirred at room temperature for 8 hours. This reaction mixture was poured into ice water to yield a solid, and the obtained solid was filtered, and then washed with water and dried to obtain the title compound (346.1 mg, 1.22

reactant | ethyl(5-chloro-4-formyl-3-methyl-1H-pyrazol-1-yl)acetate | 2.43 mmol, 560 mg | C(C)OC(CN1N=C(C(=C1Cl)C=O)C)=O | C9H11ClN2O3
reactant | potassium hydroxide | 7.5 mmol, 495 mg | [OH-].[K+]
reactant | carbon disulfide | 3.21 mmol, 194 μL | C(=S)=S | CS2
reactant | methyl iodide | 2.92 mmol, 182 μL | CI | CH3I
solvent | DMSO | 9.72 mL | CS(=O)C | C2H6OS
product | Ethyl 7-formyl-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate | C(=O)C=1C(=NN2C1SC(=C2C(=O)OCC)SC)C | C11H12N2O3S2
